US04145432
To a mixture of powder (329 mg) of methyl 4-(2-chlorophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate in ethanol (10 ml) was added sodium borohydride (25.11 mg) under ice-cooling. After further stirring for 50 minutes, the mixture was adjusted to pH 4 to 5 with dilute hydrochloric acid. After removal of the ethanol, water was added to the residue, which was extracted with ethyl acetate. The ethyl acetate layer was washed with water and dried and the residual crystals (about 280 mg) were dissolved in a mixture of diethyl ether and n-hexane and kept in a refrigerator to give pure crystals (184 mg) of methyl 4-(2-chlorophenyl)-5-ethoxycarbonyl-6-hydroxymethyl-1,4-dihydropyridine-3-carboxylate, m.p. 187 to 188° C.

reactant | methyl 4-(2-chlorophenyl)-5-ethoxycarbonyl-6-formyl-1,4-dihydropyridine-3-carboxylate | 329 mg | ClC1=C(C=CC=C1)C1C(=CNC(=C1C(=O)OCC)C=O)C(=O)OC | C17H16ClNO5
reactant | sodium borohydride | 25.11 mg | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | methyl 4-(2-chlorophenyl)-5-ethoxycarbonyl-6-hydroxymethyl-1,4-dihydropyridine-3-carboxylate | 184 mg | ClC1=C(C=CC=C1)C1C(=CNC(=C1C(=O)OCC)CO)C(=O)OC | C17H18ClNO5
